US09029536B2
C) 1-(1-Methylethyl)-3-{6-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]pyridin-3-yl}-1H-pyrazolo[4,3-b]pyridine
To a stirred mixture of 5-[1-(1-Methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]pyridin-2-ol (76 mg) in DMF (4 mL) was added NaH (60% in oil, 12.6 mg) at room temperature. The mixture was stirred at room temperature for 30 min and then 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (76 mg) was added. The mixture was exposed to microwave irradiation at 180° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane). The product was crystallized from AcOEt/hexane to give the title compound (23.0 mg).

reactant | 5-[1-(1-Methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]pyridin-2-ol | 76 mg | CC(C)N1N=C(C2=NC=CC=C21)C=2C=CC(=NC2)O | C14H14N4O
reactant | NaH | 12.6 mg | [H-].[Na+]
reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 76 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(1-Methylethyl)-3-{6-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]pyridin-3-yl}-1H-pyrazolo[4,3-b]pyridine | 23.0 mg | CC(C)N1N=C(C2=NC=CC=C21)C=2C=NC(=CC2)OC2=NC=1C(=NC=CC1)N2C | C21H19N7O
